### PR TITLE
Rewriter.createBlock and Rewriter.createOp proofs for parser

### PR DESCRIPTION
**Pull request by GZGavinZhao**
Required by #222.

### CODE REVIEW

**Review by ineol — COMMENTED** [review]
LGTM!

But it may interact with #381 since the unseal may stop working...

File: Veir/Rewriter/GetSetInBounds.lean [hunk 1]
```diff
@@ -1993,6 +1993,37 @@ theorem OpOperandPtrPtr.get!_detachBlockOperands {opOperandPtr : OpOperandPtrPtr
...
+theorem Rewriter.createBlock_fieldsInBounds_mono
+    (heq : createBlock ctx ip hctx hip = some ⟨newCtx, newPtr⟩) :
+    ctx.FieldsInBounds → newCtx.FieldsInBounds := by
+  simp only [createBlock] at heq
+  split at heq
+  · grind
+  · split at heq
+    · simp [Option.bind] at heq
+      split at heq <;> grind
+    · grind
```
Comment (math-fehr) [inline Veir/Rewriter/GetSetInBounds.lean]: Can you just move these ones to `Rewriter.Basic` as well (right after their definition), then I can merge this!

Comment (GZGavinZhao) [reply Veir/Rewriter/GetSetInBounds.lean]: Moved. A consequence is that `Rewriter.insertBlock?_mono` and related theorems must also be moved to `Rewriter.Basic`, which I think is actually desireable because now `Rewriter.insertBlock?_XXX` theorems are also right after their definition.

File: Veir/Rewriter/Basic.lean [hunk 2]
```diff
@@ -230,6 +230,20 @@ def Rewriter.insertBlock? (ctx: IRContext OpInfo) (newBlock: BlockPtr)
     let next := insertionPoint.next
     newBlock.linkBetweenWithParent ctx prev next parent (by grind) (by grind) (by grind) (by grind)
 
+@[grind .]
+theorem Rewriter.insertBlock?_inBounds (ptr : GenericPtr)
```
Comment (GZGavinZhao) [inline Veir/Rewriter/Basic.lean:234]: Am I understanding the naming correctly? `inBounds_mono` is for `→` implication proofs, while `inBounds` is for `↔` if-and-only-if proofs

Comment (math-fehr) [reply Veir/Rewriter/Basic.lean:234]: Yes I think so!
I want to do a pass at some point to be sure we are consistent, but I believe this is the naming convention we should follow!

**Review by math-fehr — APPROVED** [review]
Nice!
